US07550478B2
Step 5: 3-chloro-7-(2,2-difluoro-1-hydroxyethyl)-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one
Manganese dioxide (0.16 g, 1.9 mmol) was added to a solution of 3-chloro-7-(2,2-difluoro-1-hydroxyethyl)-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-ol (60 mg, 0.19 mmol) in ethyl acetate (2 mL) and the mixture was stirred at room temperature for 8 hours. The slurry was then filtered through celite, eluting with ethyl acetate. The filtrate was concentrated in vacuo, and purified via flash chromatography (silica, 0-50% ethyl acetate/hexanes) to afford the title compound. 1H NMR (600 MHz, CD3OD) δ 8.75 (d, 1H), 8.39 (d, 1H), 8.25 (d, 1H), 7.81 (dd, 1H), 7.65 (d, 1H), 7.29 (d, 1H), 7.19 (d, 1H), 5.89 (dt, 1H), 4.93 (dt, 1H). Hydroxyl proton was not observed.

reactant | 3-chloro-7-(2,2-difluoro-1-hydroxyethyl)-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-ol | 0.19 mmol, 60 mg | ClC=1C=C2C(=NC1)C=CC1=C(C2O)C=C(C=C1)C(C(F)F)O | C16H12ClF2NO2
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
catalyst | Manganese dioxide | 1.9 mmol, 0.16 g | [O-2].[O-2].[Mn+4]
product | 3-chloro-7-(2,2-difluoro-1-hydroxyethyl)-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C=C(C=C1)C(C(F)F)O | C16H10ClF2NO2
